US06514964B1
Step A: 2-(2-Bromophenyl)-N-(phenylmethyl)acetamide
To a stirring solution of 2-bromophenylacetic acid in dichloromethane (0.2 M) was added benzylamine (1.2 eq), triethylamine (1.5 eq), and EDAC (1.5 eq). After 2 hrs, the solution was washed with water, 10% HCl, 10% sodium carbonate, and water, dried over magnesium sulfate, filtered and concentrated in vacuo to afford a colorless solid. EI-MS m/z 304/306 (M+H)+

reactant | 2-bromophenylacetic acid | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | benzylamine | 1.2 eq | C(C1=CC=CC=C1)N | C7H9N
reactant | triethylamine | 1.5 eq | C(C)N(CC)CC | C6H15N
reactant | EDAC | 1.5 eq | CCN=C=NCCCN(C)C | C8H17N3
solvent | dichloromethane | 0.2 M | ClCCl | CH2Cl2
product | 2-(2-Bromophenyl)-N-(phenylmethyl)acetamide | BrC1=C(C=CC=C1)CC(=O)NCC1=CC=CC=C1 | C15H14BrNO
